data/mechanism_extracts/Tetrahedron/10.1016_j.tetlet.2019.04.009.json
{"doi": "10.1016_j.tetlet.2019.04.009", "journal": "Tetrahedron", "is_review": false, "rxn_class_summary": "Electrochemical oxidative sulfonylation/semipinacol ring-expansion of 1-(1-arylvinyl)cyclobutanols with arylsulfonyl hydrazides to give β-sulfonyl cyclopentanones.", "mechanism_family": ["radical_polar_crossover", "mediator_anodic", "radical_anodic"], "electrochemical_role": "Anodic oxidation of iodide (NaI) to I2, which oxidizes ArSO2NHNH2 to a sulfonyl iodide that fragments to an arylsulfonyl radical; the resulting carbon radical from radical addition is further oxidized at the anode to a carbocation. Cathode reduces water to H2/hydroxide.", "key_intermediates": [{"name": "arylsulfonyl radical (I)", "smiles": "[O]S(=O)c1ccccc1", "role": "reactive"}, {"name": "arylsulfonyl iodide (ArSO2-I)", "smiles": "IS(=O)(=O)c1ccccc1", "role": "transient"}, {"name": "tertiary carbon radical from ArSO2• addition to alkenyl cyclobutanol (II)", "smiles": null, "role": "reactive"}, {"name": "tertiary benzylic cation on cyclobutanol (III)", "smiles": null, "role": "reactive"}, {"name": "I2 (anodically generated mediator)", "smiles": "II", "role": "reactive"}], "electron_flow": "Anode oxidizes I- to I2, which converts ArSO2NHNH2 into ArSO2I and then an ArSO2• radical; the sulfonyl radical adds to the vinyl group of the cyclobutanol, the resulting C-radical is oxidized at the anode to a benzylic cation, which undergoes 1,2-alkyl (semipinacol) ring expansion of the cyclobutanol to give the cyclopentanone product. Cathode reduces water to H2 and hydroxide.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Only trace 3a formed with 3 equiv TEMPO, consistent with a radical intermediate."}, {"name": "Ts-I (preformed sulfonyl iodide)", "smiles": "Cc1ccc(S(=O)(=O)I)cc1", "purpose": "intermediate_trap", "observation": "Ts-I with electrolysis gave 3a in 51%; even without current Ts-I afforded 3a in 35%, supporting ArSO2I as the on-cycle sulfonyl radical precursor."}], "evidence_types_used": ["intermediate_trap_TEMPO", "stoichiometric_intermediate", "on/off_light_or_current"], "evidence_strength": "medium", "notes": "Desulfonation of 3l with Mg/MeOH gives α-methyl cyclopentanone 10, supporting the β-sulfonyl ketone connectivity. NaI acts as a redox mediator; without current, Ts-I still gives some product, indicating the electrochemistry mainly regenerates the I2/ArSO2I oxidant and oxidizes the C-radical to the cation for semipinacol rearrangement."}
